US07101880B2
To a mixture of the 3,5,5-trimethylhexanal (17.4 mL, 0.10 mol), ammonium chloride (53.5 g, 0.205 mol) and diethyl ether (113 mL) was added sodium cyanide (7.35 g, 0.15 mol) in water (38 mL). The reaction mixture was allowed to stir vigorously for 16 h. The layers were separated. The aqueous layer was extracted with diethyl ether. The combined organic layer was then extracted with 1 N HCl. Saturated sodium bicarbonate was then added until 1-cyano-3,5,5-trimethyl-hexylamine was completely precipitated. Vacuum filtration and washing with 5 mL ice cold water followed by lyophilization gave 1-cyano-3,5,5-trimethylhexylamine (5.805 g, 0.034 mol, 34.5%) as a white solid.

reactant | 3,5,5-trimethylhexanal | 0.10 mol, 17.4 mL | CC(CC=O)CC(C)(C)C | C9H18O
reactant | ammonium chloride | 0.205 mol, 53.5 g | [Cl-].[NH4+]
reactant | diethyl ether | 113 mL | C(C)OCC | C4H10O
reactant | sodium cyanide | 0.15 mol, 7.35 g | [C-]#N.[Na+]
solvent | water | 38 mL | O | H2O
product | 1-cyano-3,5,5-trimethylhexylamine | 0.034 mol, 5.805 g, 34.5% | C(#N)C(CC(CC(C)(C)C)C)N | C10H20N2
